US08106236B2
Preparation of 2-(4,4″-Dichloro-[1,1′;3′,1″]terphenyl-5′-yl)-pentanoic acid methyl ester
A solution of LDA (0.18 mL of 1.8 M in THF, 0.31 mmol) was added dropwise to a stirred solution of (4,4″-dichloro-[1,1′;3′,1″]terphenyl-5′-yl)-acetic acid methyl ester (100 mg, 0.26 mmol) in THF (10 mL) at −78° C. The reaction mixture was stirred for 30 minutes at −78° C. before iodopropane (0.035 mL, 0.31 mmol) was added dropwise. The reaction mixture was allowed to warm to room temperature overnight. A saturated aqueous solution of ammonium chloride (10 mL) was carefully added and the residue was partitionned between EtOAc and water. The aqueous layers were extracted with EtOAc (×3). The combined organic layers were washed with water, brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography (EtOAc:petroleum ether) yield 70 mg (66%) 1H NMR (CDCl3) δ 7.60 (t, 1H), 7.55 (d, 4H), 7.48 (d, 2H), 7.42 (d, 4H), 3.65-3.72 (m, 4H), 2.11-2.23 (m, 1H), 1.78-1.89 (m, 1H), 1.28-1.40 (m, 4H), 0.94 (t, 3H)

reactant | LDA | 0.31 mmol, 1.8 M, 0.18 mL | [Li+].CC(C)[N-]C(C)C
reactant | (4,4″-dichloro-[1,1′;3′,1″]terphenyl-5′-yl)-acetic acid methyl ester | 0.26 mmol, 100 mg | COC(CC=1C=C(C=C(C1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C21H16Cl2O2
reactant | iodopropane | 0.31 mmol, 0.035 mL | ICCC | C3H7I
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4,4″-Dichloro-[1,1′;3′,1″]terphenyl-5′-yl)-pentanoic acid methyl ester | COC(C(CCC)C=1C=C(C=C(C1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C24H22Cl2O2
